US06864265B2
Preparation of 5-(3-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
Reaction of 5-(3-methoxy-phenyl)-1H-imidazole (500 mg, 2.87 mmol), NaH (60%, 112 mg, 2.79 mmol), and SEMCl (598 uL, 3.35 mmol) followed by column chromatography on silica gel (hexane/EtOAC 3:2) gave the title compound (505 mg, 60%) as a brown oil. 1H NMR (300 MHz, CDCl3) δ0.00 (s, 9H), 0.93 (t, 2H, J=7.5 Hz), 3.52 (t, 2H, J=9.0 Hz), 3.87 (s, 3H), 5.30 (s, 2H), 6.80-6.83 (m, 1H), 7.26-7.39 (m, 3H), 7.40 (s, 1H), 7.63 (s, 1H).

reactant | 5-(3-methoxy-phenyl)-1H-imidazole | 2.87 mmol, 500 mg | COC=1C=C(C=CC1)C1=CN=CN1 | C10H10N2O
reactant | NaH | 2.79 mmol, 112 mg | [H-].[Na+]
reactant | SEMCl | 3.35 mmol, 598 uL | C[Si](C)(C)CCOCCl | C6H15ClOSi
product | 5-(3-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 505 mg, 60% | COC=1C=C(C=CC1)C1=CN=CN1COCC[Si](C)(C)C | C16H24N2O2Si
